US03984442
460 ml of a solution of ethyl magnesium bromide in tetrahydrofuran titrating 0.71 moles per liter were added dropwise to a solution of 9 g of propargyl alcohol in 100 ml of tetrahydrofuran and after stirring the mixture for 11/2 hours, a solution of 35.6 g of α-chloro-heptanal in 100 ml of tetrahydrofuran was added thereto. The mixture was stirred for one hour and was then poured into a saturated aqueous monosodium phosphate solution. The mixture was extracted with ether and the organic phase was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure at 100°C. The residue was chromatographed over silica gel and was eluted with a 4-1 benzene-ethyl acetate mixture to obtain 16.6 g of 5-chloro-4-hydroxy-2-decynol in the form of a yellow oil.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | propargyl alcohol | 9 g | C(C#C)O | C3H4O
reactant | α-chloro-heptanal | 35.6 g | ClC(C=O)CCCCC | C7H13ClO
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 0.71 moles per liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-chloro-4-hydroxy-2-decynol | 16.6 g | ClC(C(C#CCO)O)CCCCC | C10H17ClO2
